US04247701
Following the procedure of Example 2, (6-phenoxy-2-pyridyl)methyl 2-amino-3-methylbutanoate and 2-propyn-1-yl bromide are reacted, resulting in a mixture of two end products, which are separated to give (6-phenoxy-2-pyridyl)methyl 2-[N-(2-propynyl)amino]-3-methylbutanoate and (6-phenoxy-2-pyridyl)methyl 2-[N,N-(di-2-propynyl)amino]-3-methylbutanoate.

reactant | (6-phenoxy-2-pyridyl)methyl 2-amino-3-methylbutanoate | NC(C(=O)OCC1=NC(=CC=C1)OC1=CC=CC=C1)C(C)C | C17H20N2O3
reactant | 2-propyn-1-yl bromide | C(C#C)Br | C3H3Br
product | (6-phenoxy-2-pyridyl)methyl 2-[N-(2-propynyl)amino]-3-methylbutanoate | C(C#C)NC(C(=O)OCC1=NC(=CC=C1)OC1=CC=CC=C1)C(C)C | C20H22N2O3
